* E:\DESKTOP IN HDD\Acads\analog\Simulation Files\opamp_bistable.asc
XU1 N001 in ps ns out ua741
R1 N001 0 10k
R2 out N001 40k
Vtriang in 0 PULSE(-3 3 0 1m 1m 0.001m 2m)
vdd ps 0 12
vss ns 0 -12
.tran 3m
.include ua741.txt
.backanno
.end
